US05807851
3-Acetyl-7-chloro-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine
0.72 g (2.2 mmoles) of 7-chloro-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine are stirred in 4 ml of acetic anhydride at 25° C. for 3 hours, then the reaction mixture is poured onto 20 ml of ice water, the crystalline product is filtered and washed with water several times. The crude product obtained is purified by suspending it in 4 ml of hot ethanol. After filtration and drying, 0.69 g (88%) of the title compound are obtained M.p.: 174°-175° C.

reactant | 7-chloro-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine | 2.2 mmoles, 0.72 g | ClC=1C=CC2=C(CC(NN=C2C2=CC=C(C=C2)[N+](=O)[O-])C)C1 | C16H14ClN3O2
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetyl-7-chloro-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine | 0.69 g, 88% | C(C)(=O)N1N=C(C2=C(CC1C)C=C(C=C2)Cl)C2=CC=C(C=C2)[N+](=O)[O-] | C18H16ClN3O3
